US07939559B2
An enzymatic reaction was started by adding 25 μl of the lipase/buffer solution after 50 μl of the 4-MUO/buffer solution and 25 μl of distilled water (or an aqueous solution of each sample) were added and mixed in a 96-well microplate at 25° C. After the reaction was performed for 30 minutes, the reaction was stopped by adding 100 μl of a 0.1 M citrate buffer (pH 4.2) and the fluorescence of 4-methylumbelliferone produced by the reaction (excitation 355 nm, emission 460 nm) was measured using a fluorescence plate reader (Fluoroskan Asent CF from Labsystems).

reactant | citrate | 0.1 M, pH 4.2 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | water | 25 μl | O | H2O
product | 4-methylumbelliferone | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
